US07807677B2
(S)-5-Benzyl-2,2-dimethyl-[1,3]dioxolan-4-one (56)
A solution of (S)-2-Hydroxy-3-phenyl-propionic acid (1.662 g, 10.0 mmol), 2,2-dimethoxypropane (8.328 g, 80.0 mmol) and PPTSA (1.257 g, 5.0 mmol) in chloroform was stirred at 70° C. for one hour, concentrated, dissolved in dichloromethane and purified on silica gel with 10% EtOAc-PE which gave the title compound (2.010 g, 97%) as a white solid.

reactant | (S)-2-Hydroxy-3-phenyl-propionic acid | 10.0 mmol, 1.662 g | O[C@H](C(=O)O)CC1=CC=CC=C1 | C9H10O3
reactant | 2,2-dimethoxypropane | 80.0 mmol, 8.328 g | COC(C)(C)OC | C5H12O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)-5-Benzyl-2,2-dimethyl-[1,3]dioxolan-4-one | 2.010 g, 97% | C(C1=CC=CC=C1)[C@H]1C(OC(O1)(C)C)=O | C12H14O3
